US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}amino)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (330 mg, 1.0 mmol), N-(3-aminophenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (280 mg, 1.2 mmol), tris(dibenzylideneacetone)dipalladium (0) (46 mg, 0.050 mmol), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (48 mg, 0.10 mmol), potassium tert-butoxide (170 mg, 1.5 mmol) and tert-butanol was heated under reflux for 2 days. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogencarbonate solution were added to the mixture, the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×4). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→100/0) to give the title compound (37 mg, 9%) as a brown solid.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 1.0 mmol, 330 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | N-(3-aminophenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.2 mmol, 280 mg | NC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C12H14N4O
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 0.10 mmol, 48 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium tert-butoxide | 1.5 mmol, 170 mg | CC(C)([O-])C.[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.050 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}amino)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 37 mg, 9% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)NC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | C22H22N8O2
